US04599361
4-Methyl-2-oxopentanoic acid (31.3 g., 0.24 mol.) was dissolved in dry dichloromethane (50 mls.) and the resultant solution was cooled to 0° C. To the solution was added dropwise oxalyl chloride (23.2 mls., 0.265 mol.), followed by dimethylformamide (0.5 ml.). The resultant mixture was stirred at 0° C. for 1 hour, and then heated under reflux for 5 minutes and then allowed to cool. O-Methyl-L-tyrosine N-Methylamide (50.0 g., 0.24 mol.) and triethylamine (37.1 mls., 0.265 mol.) were dissolved in dichloromethane (120 mls.) and the resultant solution added dropwise to the cooled reaction mixture. The mixture was allowed to warm to room temperature and stirred overnight. The mixture was poured into water (50 mls.) and the organic layer was removed. The aqueous layer was extracted with dichloromethane (30 mls.), the combined extracts were dried over anhydrous sodium sulfate and the solvent removed by evaporation in vacuo to yield a crude product as a yellow solid (85.1 g.). The crude product was recrystallized from tertiary butyl ethyl ether to yield N-(4-methyl-2-oxopentanoyl)-O-methyl-L-tyrosine N-methylamide (55.6 g.)

reactant | 4-Methyl-2-oxopentanoic acid | 0.24 mol, 31.3 g | CC(CC(C(=O)O)=O)C | C6H10O3
reactant | oxalyl chloride | 0.265 mol, 23.2 mls | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-Methyl-L-tyrosine N-Methylamide | 0.24 mol, 50.0 g | CNC([C@@H](N)CC1=CC=C(C=C1)OC)=O | C11H16N2O2
reactant | triethylamine | 0.265 mol, 37.1 mls | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 120 mls | ClCCl | CH2Cl2
solvent | water | 50 mls | O | H2O
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | N-(4-methyl-2-oxopentanoyl)-O-methyl-L-tyrosine N-methylamide | 55.6 g | CNC([C@@H](NC(C(CC(C)C)=O)=O)CC1=CC=C(C=C1)OC)=O | C17H24N2O4
